US03961936
Substitution products of 3-hydroxy-1,2,4-triazin-5-ones, indirect method of preparation: 2.3 g sodium are added to 500 ml methanol whereby a sodium methylate solution is formed. 23.4g 3-methylthio-4-amino-6-phenyl-1,2,4-triazin-5-one and 6.5 ml methyl iodide are added. The mixture is boiled for one hour. When cooling down the mixture, a crystalline precipitate separates. The crystals are removed by suction and recrystallized from methanol and optionally once more from acetic acid ester. The 3-methoxy- 4-amino-6-phenyl-1,2,4-triazin-5-one thus obtained has a melting point of 165°C.

reactant | sodium | 2.3 g | [Na] | Na
reactant | sodium methylate | C[O-].[Na+]
reactant | 3-methylthio-4-amino-6-phenyl-1,2,4-triazin-5-one | 23.4g | CSC1=NN=C(C(N1N)=O)C1=CC=CC=C1 | C10H10N4OS
reactant | methyl iodide | 6.5 ml | CI | CH3I
solvent | methanol | 500 ml | CO | CH4O
product | 3-methoxy- 4-amino-6-phenyl-1,2,4-triazin-5-one | COC1=NN=C(C(N1N)=O)C1=CC=CC=C1 | C10H10N4O2
